US06858629B1
a) 2-[2-(4-nitrophenyl)diazenyl]-5-(2,3-epoxy-propoxy)pyridine
1.64 ml of diethyl azodicarboxylate (0.01043 mol) are added at 0° C., under a nitrogen atmosphere, to a solution containing 1.82 g of 5-hydroxy-2-(2-(4-nitrophenyl)diazenyl)pyridine (0.01043 mol), prepared according to the method described in J. Am. Chem. Soc., 1959, 81, 6049, 0.692 ml of 2,3-epoxypropanol (0.01043 mol) and 2.74 g of Ph3P (0.01043 mol) in 18 ml of DMF. The mixture is allowed to react for one hour at 0° C. and then for 40 hours at ambient temperature with stirring. Water is added, extraction is carried out with ethyl acetate, the extract is washed and the solvent is evaporated. The crude reaction product is purified by chromatography, elution being carried out with a 100/2 CH2Cl2/CH3OH mixture. The title product is obtained.

reactant | diethyl azodicarboxylate | 0.01043 mol, 1.64 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 5-hydroxy-2-(2-(4-nitrophenyl)diazenyl)pyridine | 0.01043 mol, 1.82 g | OC=1C=CC(=NC1)N=NC1=CC=C(C=C1)[N+](=O)[O-] | C11H8N4O3
reactant | 2,3-epoxypropanol | 0.01043 mol, 0.692 ml | O1C(CO)C1 | C3H6O2
reactant | Ph3P | 0.01043 mol, 2.74 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DMF | 18 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-[2-(4-nitrophenyl)diazenyl]-5-(2,3-epoxy-propoxy)pyridine | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=NC=C(C=C1)OCC1CO1 | C14H12N4O4
